data/mechanism_extracts/JACS/10.1021_jacs.3c08839_sup_1.json
{"doi": "10.1021_jacs.3c08839_sup_1", "journal": "JACS", "is_review": false, "rxn_class_summary": "Decarboxylative coupling of aliphatic carboxylic acids with allylic/vinyl electrophiles proceeding through an alkyl radical intermediate", "mechanism_family": ["radical_polar_crossover", "direct_SET"], "electrochemical_role": "anodic oxidation/decarboxylation of carboxylate to generate alkyl radical", "key_intermediates": [{"name": "alkyl radical from decarboxylation of 2-cyclopropylacetic acid (cyclopropylcarbinyl)", "smiles": "[CH2]C1CC1", "role": "transient"}, {"name": "ring-opened homoallyl radical from cyclopropylcarbinyl rearrangement", "smiles": "[CH2]CCC=C", "role": "reactive"}, {"name": "hex-5-enyl radical from decarboxylation of hept-6-enoic acid", "smiles": "[CH2]CCCC=C", "role": "transient"}, {"name": "cyclopentylmethyl radical from 5-exo-trig cyclization", "smiles": "[CH2]C1CCCC1", "role": "reactive"}], "electron_flow": "Carboxylic acid is deprotonated and anodically oxidized to release CO2 and an alkyl radical; the alkyl radical undergoes characteristic radical rearrangement (cyclopropyl ring opening or 5-exo-trig cyclization) before coupling with the allylic/vinyl electrophile partner.", "rate_determining_step": null, "probe_reagents": [{"name": "2-cyclopropylacetic acid (radical clock)", "smiles": "OC(=O)CC1CC1", "purpose": "radical_clock", "observation": "ring-opened product 64 isolated in 57% yield, consistent with cyclopropylcarbinyl radical intermediate"}, {"name": "hept-6-enoic acid (radical clock)", "smiles": "OC(=O)CCCCC=C", "purpose": "radical_clock", "observation": "5-exo-trig cyclization product 66 with (E)-4-bromobut-3-en-1-yl benzoate dominates over direct coupling 67 (66:67 = 15:1), 67% combined yield"}, {"name": "hept-6-enoic acid with allylic tosylate S18", "smiles": "OC(=O)CCCCC=C", "purpose": "radical_clock", "observation": "cyclization product S19 isolated in 52% yield, confirming radical intermediate with tosylate electrophile"}], "evidence_types_used": ["radical_clock"], "evidence_strength": "medium", "notes": "Only radical clock probes shown on this page (Section 5.1); the high ratio of cyclized to uncyclized product (15:1) indicates a relatively long-lived/free alkyl radical rather than a tightly bound metal-alkyl species."}
